US05258382
Preparation of a diastereomer of 2-(4-bromo-2-fluorobenzyl)-4-(-)-menthyloxycarbonyl-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-acetic acid tert-butyl ester (Diastereomer A and Diastereomer B):
A mixture of 2-(4-bromo-2-fluorobenzyl)-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid (-)-menthyl ester (67.0 g), anhydrous potassium carbonate (36.0 g) and tert-butyl bromoacetate (33.0 g) in anhydrous dimethylformamide (200 ml) was stirred under the stream of nitrogen at 70° C. for 2.5 hours. After removal of the insoluble materials by filtration, the filtrate was poured into water and extracted with ethyl acetate. The extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and evaporated under reduced pressure. The residue was recrystallized from n-hexane to give the title compound (Diastereomer A) (23.5 g, 28.8%) as colorless crystals, mp 99°-100° C.

reactant | 2-(4-bromo-2-fluorobenzyl)-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-carboxylic acid (-)-menthyl ester | 67.0 g | C1(CC(C(CC1)C(C)C)OC(=O)C1C(N(C(C=2N1C=CC2)=O)CC2=C(C=C(C=C2)Br)F)=O)C | C25H28BrFN2O4
reactant | potassium carbonate | 36.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl bromoacetate | 33.0 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromo-2-fluorobenzyl)-4-(-)-menthyloxycarbonyl-1,3-dioxo-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-4-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1(C(N(C(C=2N1C=CC2)=O)CC2=C(C=C(C=C2)Br)F)=O)C(=O)OC2CC(CCC2C(C)C)C)=O | C31H38BrFN2O6
